US08614213B2
Step 2: 1-(5-Methyl-1H-pyrazol-3-yl)-imidazolidin-2-one
To a solution of 3-[3-(2-Chloro-ethyl)-ureido]-5-methyl-pyrazole-1-carboxylic acid (2-chloro-ethyl)-amide (14.5 g, 47.05 mmol) in THF (100 mL) was added sodium ethoxide solution prepared from sodium (2.2 g, 95.65 mmol) and ethanol (100 mL) and then the reaction mixture was stirred at RT for 20 h. Precipitation of white solid was observed. The reaction mixture was cooled to 0° C. and stirred for ˜2 h. The precipitated solid was collected by filtration, washed with ethanol and water, and dried under vacuum.

reactant | 3-[3-(2-Chloro-ethyl)-ureido]-5-methyl-pyrazole-1-carboxylic acid (2-chloro-ethyl)-amide | 47.05 mmol, 14.5 g | ClCCNC(=O)N1N=C(C=C1C)NC(=O)NCCCl | C10H15Cl2N5O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 95.65 mmol, 2.2 g | [Na] | Na
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(5-Methyl-1H-pyrazol-3-yl)-imidazolidin-2-one | CC1=CC(=NN1)N1C(NCC1)=O | C7H10N4O
